US07968573B2
A mixture of 3.35 g of 3-chloro-2-[3-(dimethoxymethyl)-1H-pyrazol-1-yl]pyridine, 24 ml of formic acid and 6 ml of water was stirred at 60° C. for 1 hour. The reaction mixture was concentrated under reduced pressure. Ice water was poured into the residue, and a precipitated solid was collected by filtration to obtain 2.38 g of 1-(3-chloro-2-pyridinyl)-1H-pyrazole-3-carbaldehyde of the formula:

reactant | 3-chloro-2-[3-(dimethoxymethyl)-1H-pyrazol-1-yl]pyridine | 3.35 g | ClC=1C(=NC=CC1)N1N=C(C=C1)C(OC)OC | C11H12ClN3O2
reactant | formic acid | 24 ml | C(=O)O | CH2O2
solvent | water | 6 ml | O | H2O
product | 1-(3-chloro-2-pyridinyl)-1H-pyrazole-3-carbaldehyde | 2.38 g | ClC=1C(=NC=CC1)N1N=C(C=C1)C=O | C9H6ClN3O
